US04002647
Starting, for example, from 1-(2,4-dimethoxy-phenyl)-ethanol and treating same with thionyl chloride there can be obtained 1-(2,4-dimethoxy-phenyl)-ethyl chloride which can be converted by reaction with potassium cyanide and subsequent methylation with sodium amide and methyl iodide into 2-(2,4-dimethoxy-phenyl)-2-methyl-propionitrile. Alkaline hydrolysis of the nitrile group and subsequent reduction of the carboxyl group with lithium aluminum hydride gives 2-(2,4-dimethoxy-phenyl)-2-methyl-propanol which, by treatment with hydrobromic acid/glacial acetic acid and subsequent cyclization of the resulting 2-(2,4-dihydroxy-phenyl)-2-methyl-propyl bromide with potassium carbonate in acetone, yields 3,3-dimethyl-6-hydroxy-2,3-dihydrobenzofuran.

reactant | 1-(2,4-dimethoxy-phenyl)-ethanol | COC1=C(C=CC(=C1)OC)C(C)O | C10H14O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-(2,4-dimethoxy-phenyl)-ethyl chloride | COC1=C(C=CC(=C1)OC)C(C)Cl | C10H13ClO2
